US06071917
8-Hydroxy-2-methyl-4-trifluoromethylquinoline
A solution of 11 g (45.6.10-3 mol) of 8-methoxy-2-methyl-4-trifluoromethylquinoline in 360 ml of dichloromethane is cooled to -60° C. and 228 ml of a 1 M solution of boron tribromide in dichloromethane are added dropwise. The reaction medium is subsequently stirred for 1 hour at room temperature, 250 ml of methanol are then added slowly and stirring is continued for 2 hours. 250 ml of dichloromethane are added and sodium bicarbonate solution is added to render the medium alkaline. The organic phase is separated off, washed with water, dried over sodium sulfate and concentrated under reduced pressure to give 8.25 g of the expected product in the form of brown crystals (yield=79.5%).

reactant | 8-methoxy-2-methyl-4-trifluoromethylquinoline | 11 g | COC=1C=CC=C2C(=CC(=NC12)C)C(F)(F)F | C12H10F3NO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | 250 ml | CO | CH4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 360 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 8-Hydroxy-2-methyl-4-trifluoromethylquinoline | 8.25 g | OC=1C=CC=C2C(=CC(=NC12)C)C(F)(F)F | C11H8F3NO
